US05698692
To the solution of tyramine (5 g) in DMF (50 ml) were added triethylamine (5 ml) and di-t-butyl dicarbonate (8.4 ml), and the mixture was stirred at a temperature of ice-cooling to room temperature. After the reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The solvents were then removed by distillation. The residue was purified by column chromatography on silica gel with an eluent system of chloroform:ethanol=30:1 to give 8.5 g of N-t-butoxycarbonyltyramine (yield, 99%).

reactant | tyramine | 5 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 8.4 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-t-butoxycarbonyltyramine | 8.5 g, 99% | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)O | C13H19NO3
